US06288041B1
Synthetic Example BB9: Synthesis of 3α-N-(N-tert-butyloxycarbonyl-O-benzyl-L-seryl)aminocholestane
By using N-tert-butyloxycarbonyl-O-benzyl-L-serine (2.28 g, 7.72 mmol) and 3α-aminocholestane (3.00 g, 7.74 mmol), the title compound was obtained in the same manner as in Synthetic Example BB1 (4.64 g, yield; 90.4%).

reactant | N-tert-butyloxycarbonyl-O-benzyl-L-serine | 7.72 mmol, 2.28 g | C(C)(C)(C)OC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)O | C15H21NO5
reactant | 3α-aminocholestane | 7.74 mmol, 3.00 g | N[C@H]1CC2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C27H49N
product | 3α-N-(N-tert-butyloxycarbonyl-O-benzyl-L-seryl)aminocholestane | yield; 90.4% | C(C)(C)(C)OC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@H]1CC2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C42H68N2O4
